US08614206B2
A solution of benzyl 4-hydroxy-5-(2,2,2-trifluoroacetamido)azepane-1-carboxylate (935 mg, 3.0 mmol) in MeOH (100 mL) was passed through the H-Cube® (full H2, 50° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge). The solvent was removed under reduced pressure to give 4-hydroxy-5-(2,2,2-trifluoroacetamido)azepane as a pale yellow solid (514 mg). To a solution of this solid (500 mg, 2.21 mmol) in dry DMSO (10 mL) was added 5-chloro-1-methyl-4-nitro-1H-pyrazole from Example 1 (150 mg, 0.93 mmol) and potassium fluoride (513 mg, 8.85 mmol). The reaction mixture was heated at 65° C. for 16 hr. The mixture was poured into water (200 mL) and extracted with EtOAc (5×50 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. Purification of the residue by silica gel column chromatography (70% EtOAc/isohexane) gave 2,2,2-trifluoro-N-(5-hydroxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)acetamide as a yellow solid (640 mg). A portion of this solid (200 mg, 0.57 mmol) was dissolved in MeOH (25 mL) and passed through the H-Cube® (full H2, 50° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge). The solvent was removed under reduced pressure to give N-(1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-hydroxyazepan-4-yl)-2,2,2-trifluoroacetamide as an orange foam (172 mg, 68% over 3 steps). 1H NMR (400 MHz, DMSO) δ 9.22 (d, J=8.1 Hz, 1H), 6.83 (s, 1H), 4.84 (d, J=5.0 Hz, 1H), 3.91-3.73 (m, 2H), 3.32 (s, 3H), 3.28-2.96 (m, 4H), 2.00-1.75 (m, 4H). Exchangeable NH2 not observed.

reactant | benzyl 4-hydroxy-5-(2,2,2-trifluoroacetamido)azepane-1-carboxylate | 3.0 mmol, 935 mg | OC1CCN(CCC1NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C16H19F3N2O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-hydroxy-5-(2,2,2-trifluoroacetamido)azepane | 514 mg | OC1CCNCCC1NC(C(F)(F)F)=O | C8H13F3N2O2
